US04824854
Preparation of 2-Methoxy-5-pyridyl isothiocyanate hydrochloride
5-Amino-2-methoxypyridine (11 ml, 0.10 mol) is added dropwise at reflux, with stirring to a solution of thiophosgene (8.4 ml, 0.11 mol) in methylene chloride. Refluxing is continued for a further hour and cooled to room temperature. The resulting solid is filtered off, washed with ether to give 9.6 g of the title intermediate product.

reactant | 5-Amino-2-methoxypyridine | 0.10 mol, 11 ml | NC=1C=CC(=NC1)OC | C6H8N2O
reactant | thiophosgene | 0.11 mol, 8.4 ml | C(=S)(Cl)Cl | CCl2S
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 2-Methoxy-5-pyridyl isothiocyanate hydrochloride | 9.6 g | Cl.COC1=NC=C(C=C1)N=C=S | InChI=1S/C7H6N2OS.ClH/c1-10-7-3-2-6(4-8-7)9-5-11;/h2-4H,1H3;1H
